US07888464B2
A mixture of 1-(tert-butoxycarbonylamino)-2-(difluoromethyl)cyclopropanecarboxylic acid (975 mg, 3.88 mmol) and CDI (755 mg, 4.66 mmol) in tetrahydrofuran (10 mL) was heated at reflux for 1 h. It was then cooled to rt and then cyclopropanesulfonamide (564 mg, 4.66 mmol) was added, followed by DBU (0.702 mL, 4.66 mmol). This mixture was stirred at rt for 18 h. It was then concentrated in vacuo, diluted with water and adjusted to pH=4 using 1 N HCl. The acidic solution was extracted with EtOAc, washed with water (5×15 mL), dried (MgSO4), and concentrated in vacuo to yield 1.6 g of the crude product as a white solid. Recrystallization from hexane/EtOAc gave 1.15 g (84%) of tert-butyl 1-(cyclopropylsulfonylcarbamoyl)-2-(difluoromethyl)cyclopropylcarbamate as a white solid. LC-MS, MS m/z 377 (M+1+Na).

reactant | 1-(tert-butoxycarbonylamino)-2-(difluoromethyl)cyclopropanecarboxylic acid | 3.88 mmol, 975 mg | C(C)(C)(C)OC(=O)NC1(C(C1)C(F)F)C(=O)O | C10H15F2NO4
reactant | CDI | 4.66 mmol, 755 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclopropanesulfonamide | 4.66 mmol, 564 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 4.66 mmol, 0.702 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 1-(cyclopropylsulfonylcarbamoyl)-2-(difluoromethyl)cyclopropylcarbamate | 1.15 g, 84% | C1(CC1)S(=O)(=O)NC(=O)C1(C(C1)C(F)F)NC(OC(C)(C)C)=O | C13H20F2N2O5S
